US07217723B2
a) 4-Bromo-thiophene-2-carboxylic acid [2-(4-fluorophenyl)-ethyl]-methyl-amide
From 4-bromo-thiophene-2-carboxylic acid and 1.47 g of [2-(4-fluorophenyl)-ethyl]-methyl-amine (the compound of Preparation Example 14) (1.98 g), a colorless solid (2.53 g) was obtained, in the same way as Preparation Example 118-b).

reactant | 4-bromo-thiophene-2-carboxylic acid | BrC=1C=C(SC1)C(=O)O | C5H3BrO2S
reactant | [2-(4-fluorophenyl)-ethyl]-methyl-amine | 1.47 g | FC1=CC=C(C=C1)CCNC | C9H12FN
product | 4-Bromo-thiophene-2-carboxylic acid [2-(4-fluorophenyl)-ethyl]-methyl-amide | 2.53 g | FC1=CC=C(C=C1)CCN(C(=O)C=1SC=C(C1)Br)C | C14H13BrFNOS
